US05560814
Preparation of 2-(benzyloxycarbonylmethyl)thiouronium chloride
7.6 g (0.1 mol) of thiourea were dissolved in 50 ml of acetone. 18.5 g (0.1 mol) of benzyl chloroacetate were added dropwise and the mixture was heated at the boil for two hours. After cooling down to room temperature, the precipitated product was filtered off and washed with diethyl ether. Drying left 23.5 g (corresponding to a yield of 90%) of the title compound in the form of colorless crystals. The product was more than 99% pure.

reactant | thiourea | 0.1 mol, 7.6 g | NC(=S)N | CH4N2S
reactant | benzyl chloroacetate | 0.1 mol, 18.5 g | ClCC(=O)OCC1=CC=CC=C1 | C9H9ClO2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-(benzyloxycarbonylmethyl)thiouronium chloride | yield of 90% | [Cl-].C(C1=CC=CC=C1)OC(=O)CSC(=[NH2+])N | InChI=1S/C10H12N2O2S.ClH/c11-10(12)15-7-9(13)14-6-8-4-2-1-3-5-8;/h1-5H,6-7H2,(H3,11,12);1H
